US04393059
Ethyl 4-chloro-2-cyclohexyloxyimino-3-oxobutyrate (syn isomer, 27.8 g.), thiourea (7.7 g.), sodium acetate 3-hydrate (13.7 g.), water (70 ml.) and ethanol (140 ml.) were treated in a similar manner to that of Example F-(3) to give ethyl 2-(2-aminothiazol-4-yl)-2-cyclohexyloxyiminoacetate (syn isomer, 3.6 g.), mp. 125° to 126° C.

reactant | Ethyl 4-chloro-2-cyclohexyloxyimino-3-oxobutyrate | 27.8 g | ClCC(C(C(=O)OCC)=NOC1CCCCC1)=O | C12H18ClNO4
reactant | thiourea | 7.7 g | NC(=S)N | CH4N2S
reactant | water | 70 ml | O | H2O
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | ethyl 2-(2-aminothiazol-4-yl)-2-cyclohexyloxyiminoacetate | 3.6 g | NC=1SC=C(N1)C(C(=O)OCC)=NOC1CCCCC1 | C13H19N3O3S
